US07671043B2
Diisobutylaluminum hydride (1.5 M solution in toluene, 9.82 mL) was added dropwise to a solution of 6-(methoxy-methyl-carbamoyl)-nicotinic acid methyl ester (1.1 g, 4.91 mmol) in THF (50 mL) at −78° C. over 10 minutes. The reaction mixture was stirred for 2 hours at −78° C., quenched with 5% HCl/ethanol and warmed to room temperature. The reaction mixture was concentrated in vacuo and the resulting residue was taken up in saturated K2CO3 and extracted with ethyl acetate (2×). The combined organic extracts were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. MeOH (15.0 mL) was added to the crude reaction mixture and cooled to 0° C. Sodium borohydride (0.280 g, 7.20 mmol) was added in two portions to the reaction mixture and stirred at 0° C. for 30 minutes. Additional sodium borohydride (0.136 g, 3.6 mmol) was added to the reaction mixture, warmed to room temperature and stirred for 2 hours. The reaction mixture was diluted with dichloromethane (75.0 mL), washed with water and saturated NaHCO3, dried (Na2SO4), filtered and evaporated to yield 6-hydroxymethyl-nicotinic acid methyl ester (0.400 g, 49% yield) as a solid.

reactant | Diisobutylaluminum hydride | 1.5 M, 9.82 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 6-(methoxy-methyl-carbamoyl)-nicotinic acid methyl ester | 4.91 mmol, 1.1 g | COC(C1=CN=C(C=C1)C(N(C)OC)=O)=O | C10H12N2O4
reactant | Sodium borohydride | 7.20 mmol, 0.280 g | [BH4-].[Na+]
reactant | sodium borohydride | 3.6 mmol, 0.136 g | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 75.0 mL | ClCCl | CH2Cl2
product | 6-hydroxymethyl-nicotinic acid methyl ester | 0.400 g, 49% yield | COC(C1=CN=C(C=C1)CO)=O | C8H9NO3
